US05043006
1.5 g of 4-(2,3-dichlorophenylcarbamoyl)phenyl acetic acid was dissolved in 30 ml of anhydrous tetrahydrofuran. While cooling the solution with ice water, 0.75 g of N,N'-carbonyldiimidazole was added thereto, and the mixture was stirred for 30 minutes. Thereafter, 0.27 g of n-propylamine was added thereto. The mixture was returned to room temperature and stirred for 5 hours. After completion of the reaction, the reaction solution was poured into 200 ml of water. The resulting crystals were collected by filtration, washed with water and dried, and then recrystallized from benzene-hexane to obtain 1.5 g of desired N-n-propyl-4-(2,3-dichlorophenylcarbamoyl)phenylacetamide. The yield was 88.8%, and the melting point of this compound was from 177° to 178° C.

reactant | 4-(2,3-dichlorophenylcarbamoyl)phenyl acetic acid | 1.5 g | ClC1=C(C=CC=C1Cl)NC(=O)C1=CC=C(C=C1)CC(=O)O | C15H11Cl2NO3
reactant | n-propylamine | 0.27 g | C(CC)N | C3H9N
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-n-propyl-4-(2,3-dichlorophenylcarbamoyl)phenylacetamide | 1.5 g, yield was 88.8% | C(CC)NC(CC1=CC=C(C=C1)C(NC1=C(C(=CC=C1)Cl)Cl)=O)=O | C18H18Cl2N2O2
